Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
spironolactone / atorvastatin
 
Attending: ___.
 
Chief Complaint:
Hyperglycemia/nausea/vomiting
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ year old female with type I DM for ___ years (diagnosed at age 
___, followed at ___ c/b gastroaresis/autonomic dysfunction, 
history of DVT, MI in ___ without stents, hypertension, 
hyperlipidemia, PAD s/p right BKA, presenting with vomiting, 
hyperglycemia with glucose >500. 

On the day prior to admission, she noted her blood sugars were 
well controlled with BG 150s-200s. In the evening prior to 
admission, patient's blood glucose was noted to be in the 400s. 
She developed nausea, cramping abdominal pain, followed by 
vomiting. She denied any chest pain, chest pressure, chest 
palpitations, shortness of breath, dysuria. She did have some 
fatigue, but did not have any episodes of pre-syncope. Denied 
visual changes, or extremity weakness/numbness.   

Of note, due to the vomiting she was unable to take her blood 
pressure medications. She reports taking her insulin and not 
missing any doses.    
 
In the ED, initial vitals: FSG 500, T 98.6, HR 85, BP 213/90, 
18, 98% on RA.

Labs were notable for CBC with H/H ___. Chemistry was 
notable for Na 130, Chloride 86, HCO3 20, BUN 52, Creatinine 2.4 
with glucose of 585. Initial ABG was ___ with lactate of 
1.4. 

Patient was seen by ___ and initiated on DKA pathway. She 
received 4.5L fluid, prochlorperazine 10 mg IV x 1, labetalol 75 
mg IV x 1, hydralazine 50 mg PO x 2, methadone 5 mg PO x 2, 
pantoprazole 40 mg PO x 1, insulin gtt started at 8 units/hour, 
amlodipine 5 mg PO x 1, clopidogrel 75 mg PO x 1, metaclopramine 
10 mg PO x 1.
 
Past Medical History:
- H/o DVT  
- MI ___, no stents  
- DM type I. Followed by ___.  
- Peripheral neuropathy  
- gastroparesis  
- HTN  
- Hyperlipidemia  
- Hypothyroidism  
- PVD/PAD  
- Autonomic dysfunction, orthostatic hypotension  
- Barretts Esophagus on EGD ___  
- Depression  
- S/p right BKA  
- Hiatal hernia  
- sciatica  
- S/p laminectomy  
- S/p hysterectomy
 
Social History:
___
Family History:
Mother - coronary artery disease with MI in her ___, died at age 
___. Father - coronary artery disease with MI in her ___, died at 
age ___.  
 
Physical Exam:
Admission:
Vitals: 85, 145/52, 15, 93% on RA.  
GENERAL: Keeps eyes closed during most of physical examination, 
able to open eyes to voice but does not verbalize response.   
HEENT: Dry mucous membranes.   
NECK: supple, JVP not elevated.  
LUNGS: Minimal decreased breath sounds at bases.   
CV: Regular rate and rhythm, normal S1 S2.  
ABD: soft, non-tender, non-distended, no rebound or guarding. 
EXT: Right BKA. Left lower extremity showed no evidence of 
edema.  
NEURO: Appears tired but able to open eyes to loud voice. Unable 
to perform neurologic exam as patient slept during most of 
examination. 

Discharge: 
Vital Signs: T98.7 Tm 99 BP 151/70-160/50 HR ___ RR 20 98-100% 
on RA. 
General: ill appearing but NAD, oriented x3, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD. No bottom teeth. 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops. 
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU:  no foley  
Ext: RLE with BKA, well healed. LLE warm, well perfused, 2+ 
pulses, no clubbing, cyanosis or edema  
Neuro: cnii-xii grossly intact; spontaneously moving all four 
extremities. 

 
Pertinent Results:
ADMISSION/NOTABLE LABS:
======================= 
___ 12:17PM BLOOD WBC-7.6 RBC-3.32* Hgb-10.0* Hct-31.4* 
MCV-95 MCH-30.1 MCHC-31.8* RDW-14.2 RDWSD-48.9* Plt ___
___ 12:17PM BLOOD Glucose-585* UreaN-52* Creat-2.4* Na-130* 
K-4.8 Cl-86* HCO3-20* AnGap-29*
___ 12:17PM BLOOD ALT-18 AST-22 AlkPhos-141* TotBili-0.4
___ 04:09AM BLOOD CK-MB-14* cTropnT-0.06*
___ 11:51AM BLOOD CK-MB-16* cTropnT-0.04*
___ 07:30AM BLOOD CK-MB-6 cTropnT-0.02*
___ 12:17PM BLOOD Albumin-4.1 Calcium-10.9* Phos-5.3* 
Mg-1.8
___ 08:48AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:25PM BLOOD pO2-82* pCO2-35 pH-7.41 calTCO2-23 Base 
XS--1
___ 04:36PM BLOOD Glucose-494* Na-131* K-3.9 Cl-99 
calHCO3-17*
___ 08:52PM URINE Blood-NEG Nitrite-NEG Protein-300 
Glucose-1000 Ketone-10 Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 08:52PM URINE RBC-0 WBC-1 Bacteri-NONE Yeast-NONE Epi-0 
TransE-<1

LABS AT DISCHARGE:
==================
___ 09:58AM BLOOD WBC-8.3 RBC-2.50* Hgb-7.5* Hct-23.4* 
MCV-94 MCH-30.0 MCHC-32.1 RDW-14.3 RDWSD-48.0* Plt ___
___ 09:58AM BLOOD Glucose-166* UreaN-25* Creat-1.8* Na-136 
K-4.2 Cl-101 HCO3-26 AnGap-13
___ 09:58AM BLOOD Calcium-8.4 Phos-3.6 Mg-2.0

MICRO:
=====
   URINE CULTURE (Final ___:    NO GROWTH. 

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 6:06 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 
         Cefepime sensitivity testing performed by ___. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------       R
CEFTAZIDIME-----------     4 S
CEFTRIAXONE-----------    32 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

IMAGING/OTHER STUDIES: 
=======================
CXR ___: FINDINGS: No significant interval change.  The lungs 
remain well expanded.  No focal consolidation, edema, effusion, 
or pneumothorax.  The heart is normal in size. The mediastinum 
is not widened.  Aortic knob calcifications are mild. Deformity 
of the right distal clavicle reflects sequelae of prior 
fracture, unchanged.  Deformity and mottled sclerotic appearance 
of the right humeral head is similar to ___. 
IMPRESSION: No focal pneumonia or edema. 
  
EKG: RBBB, no significant ischemic changes. 

TTE ___ The left atrium is normal in size. The estimated right 
atrial pressure is ___ mmHg. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). Tissue Doppler 
imaging suggests an increased left ventricular filling pressure 
(PCWP>18mmHg). Right ventricular chamber size and free wall 
motion are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve leaflets are 
mildly thickened. There is no mitral valve prolapse. Mild (1+) 
mitral regurgitation is seen. [Due to acoustic shadowing, the 
severity of mitral regurgitation may be significantly 
UNDERestimated.] There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion. 
Compared with the prior study (images reviewed) of ___, 
the findings are similar.  

CT head ___ IMPRESSION: No acute intracranial process. 

 
Brief Hospital Course:
___ with PMH significant for T1DM c/b gastroparesis/ autonomic 
dysfunction, and PAD s/p R BKA, CAD with MI (___) without 
intervention, HTN, and HLD who presented with DKA. 

# Type I DM c/b DKA: 
Patient presented with hyperglycemia with initial anion gap of 
29, with ketones in the urine consistent with DKA. Etiology of 
DKA difficult to determine as patient reportedly took insulin 
appropriately. Initial fectious workup is negative thus far 
including UA and CXR. EKG does not show signs of ischemic 
changes although CKMB and trop up. Possibly related to viral 
gastroenteritis, as patient had epigastric discomfort/N/V prior 
to hyperglycemia. Patient followed closely by endocrinologist 
from ___ with appropriate titration in her 
insulin regimen. She maintained good glycemic control prior to 
discharge. 

# Gastroparesis: 
Patient with worsening of baseline nausea in setting of 
hyperglycemia/DKA. Given a borderline Qtc of 466, anti-emetics 
were employed cautiously. Her home reglan was discontinued given 
prolonged courses > 8 weeks are not indicated. She was trialed 
on erythromycin TID w/ meals with noted improvement in nausea 
and ability to tolerate PO. 

#CAD, NSTEMI
Noted to have a tropenemia with peak trop of 0.06 and peak CK-MB 
of 16. Patient with high pretest probability for ACS given 
previous MI, age, and multiple comorbidities (T1DM, HTN, HLD, 
PVD). No frank chest pain, but patient at risk for atypical 
angina/silent MI. Tropinemia may represent demand ischemia in 
setting of DKA/acute illness versus missed true NSTEMI. Without 
dynamic changes on ECG (baseline RBBB) and repeat echo with no 
focal wall motion abnormalities or depressed EF. Given history 
of significant vascular disease, patient received 48h of heparin 
gtt as per recommendations of the cardiology consultant. She 
also was restarted on a statin, 10mg crestor, with close 
monitoring of LFTs and CK given history of statin intolerance. 
She was continued on ASA 81 and Plavix (for PAD). Her blood 
pressure was noted to be quite labile, and she was restarted on 
her full home regimen prior to discharge. She was discharged 
with appropriate cardiology follow up where a decision can be 
made regarding the utility of a pMIBI scan and where she can 
have further titration of her cardiac regimen. 

# ___ on CKD: 
Patient presented with creatinine 2.4 from a suspected baseline 
of 1.6-2.0. Likely in setting of volume depletion in setting of 
DKA, given marked improvement with IVF hydration. 

# Complicated UTI:
Day prior to discharge, patient with T99.7 and mild 
leukocytosis. Infectious workup repeated and found to have 
significant pyuria. History of resistant E.coli in the past but 
sensitive to Bactrim. Patient was started on Bactrim DS BID for 
seven days. Cultures and sensitivities which were pending on 
discharge grew E.Coli sensitive to Bactrim.

# Urinary retention:
Patient with difficulty urinating after initial attempt of foley 
removal. Patient was passing urine spontaneously with out 
significant retention prior to discharge. 

#Hyponatremia: 
Stable/improving. Low/mid ___ from nadir of 128. Suspect 
combination of hypovolemia in setting in DKA and hypoglycemia. 
Improvement after fluid. Recent TSH wnl. 

# Deconditioning: 
Noted to be very weak after working with physical therapy and 
recommended for discharge to rehab. The patient initially 
resisted the idea but ultimately accepted and agreed that rehab 
would be the best post-discharge plan. 

# Hypertension:  
Some agents were held initially in setting of hypovolemia and 
___. Her home meds were gradually reintroduced prior to 
discharge. Noted to have significant lability with blood 
pressure with systolics ranging from 110s to 180s. Hypertension 
improved with reintroduction of home meds, but may require 
further titration as an outpatient. Plan for stopping amlodipine 
as outpatient as possible contributor to lower extremity edema.

# PAD/PVD: s/p amputation.  
Continued clopidogrel and aspirin.   
- aspirin.  

# Hypothyroidism:  
Continued levothyroxine.  

# Depression:  
Continued citalopram 20 mg daily  

TRANSITIONAL ISSUES: 
===================
- please obtain CBC and chem7 on ___ and fax to PCP ___  
___. 
- On Bactrim DS BID for 7 days (day 1 = ___ for complicated 
UTI. 
- Started erythromycin for suspected gastroparesis. home Zofran 
held in setting of prolonged QTc. Reglan discontinued due to 
pharmacy recommendations against prolonged use for this 
indication. 
- please continue to check lft's as outpatient as patient 
started on rosuvastatin for possible CAD but with documented 
history of lft abnormalities on other prior statin. 
- continue to downtitrate amlodipine as outpatient as possible 
etiology of lower extremity edema
- hydralazine held on discharge given concern for orthostasis. 
resume as clinically indicated. 
- outpatient stress test/cardiology f/u
- continue monitoring of blood glucose as outpatient
- consider weaning methadone.
- monitor for urinary retention as patient had difficulty with 
spontaneous voiding after removal of the foley. 
# CODE:  full code
# CONTACT: husband, ___, ___

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 4 mg PO Q8H:PRN nausea 
2. Acetaminophen 500 mg PO Q8H:PRN pain or fever 
3. Triamcinolone Acetonide 0.1% Cream 1 Appl TP DAILY 
4. Gabapentin 200 mg PO DAILY 
5. Tiotropium Bromide 1 CAP IH DAILY 
6. Lidocaine 5% Ointment 1 Appl TP BID 
7. Labetalol 600 mg PO TID 
8. Docusate Sodium 200 mg PO DAILY 
9. Polyethylene Glycol 17 g PO DAILY 
10. amLODIPine 5 mg PO DAILY 
11. HydrALAZINE 50 mg PO TID 
12. dextran 70-hypromellose 0.1-0.3 % ophthalmic PRN dry eyes 
13. Glucagon 1 mg IM INJECT AS DIRECTED FOR LOW BLOOD SUGAR 
14. Glargine 32 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
15. Ferrous GLUCONATE 324 mg PO BID 
16. Multivitamins 1 TAB PO DAILY 
17. Methadone 5 mg PO TID:PRN pain 
18. Clopidogrel 75 mg PO DAILY 
19. Metoclopramide 10 mg PO QIDACHS 
20. travoprost 0.004 % ophthalmic 1 drop each eye QPM 
21. Pantoprazole 40 mg PO Q24H 
22. Calcium Carbonate 500 mg PO DAILY 
23. Aspirin 81 mg PO DAILY 
24. albuterol sulfate 90 mcg/actuation inhalation 2 puffs INH 
Q6H:PRN shortness 
25. Citalopram 20 mg PO DAILY 
26. Levothyroxine Sodium 88 mcg PO DAILY 
27. Cyanocobalamin 1000 mcg PO DAILY 
28. Ascorbic Acid ___ mg PO BID 
29. Calcitriol 0.25 mcg PO DAILY 
30. Combigan (brimonidine-timolol) 0.2-0.5 % ophthalmic 1 drop 
each eye twice daily 
31. FoLIC Acid 0.4 mg PO DAILY 

 
Discharge Medications:
1. amLODIPine 5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. Glucagon 1 mg IM INJECT AS DIRECTED FOR LOW BLOOD SUGAR 
6. Labetalol 600 mg PO TID 
7. Levothyroxine Sodium 88 mcg PO DAILY 
8. Methadone 5 mg PO TID:PRN pain 
9. Multivitamins 1 TAB PO DAILY 
10. Tiotropium Bromide 1 CAP IH DAILY 
11. Erythromycin 250 mg PO TID W/MEALS 
RX *erythromycin [Ery-Tab] 250 mg 1 tablet(s) by mouth TID with 
meals Disp #*42 Tablet Refills:*0
12. Rosuvastatin Calcium 10 mg PO QPM 
RX *rosuvastatin [Crestor] 10 mg 1 tablet(s) by mouth daily Disp 
#*15 Tablet Refills:*0
13. Triamcinolone Acetonide 0.1% Cream 1 Appl TP DAILY 
14. travoprost 0.004 % ophthalmic 1 drop each eye QPM 
15. Polyethylene Glycol 17 g PO DAILY 
16. Pantoprazole 40 mg PO Q24H 
17. Lidocaine 5% Ointment 1 Appl TP BID 
18. Gabapentin 200 mg PO DAILY 
19. Acetaminophen 500 mg PO Q8H:PRN pain or fever 
20. albuterol sulfate 90 mcg/actuation INHALATION 2 PUFFS INH 
Q6H:PRN shortness 
21. Ascorbic Acid ___ mg PO BID 
22. Calcitriol 0.25 mcg PO DAILY 
23. Calcium Carbonate 500 mg PO DAILY 
24. Citalopram 20 mg PO DAILY 
25. Combigan (brimonidine-timolol) 0.2-0.5 % ophthalmic 1 drop 
each eye twice daily 
26. dextran 70-hypromellose 0.1-0.3 % ophthalmic PRN dry eyes 
27. Docusate Sodium 200 mg PO DAILY 
28. Ferrous GLUCONATE 324 mg PO BID 
29. FoLIC Acid 0.4 mg PO DAILY 
30. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES BID 
31. Milk of Magnesia 30 mL PO Q12H:PRN constipation 
32. Glargine 30 Units Breakfast
Glargine 2 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
33. Sulfameth/Trimethoprim DS 1 TAB PO BID 
day 1 = ___ 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Primary:
Diabetic Ketoacidosis
NSTEMI
Gastroenteritis
Complicated UTI

Secondary:
Type 1 Diabetes
Gastroparesis 
Peripheral Vascular Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you during your stay at ___. You 
were admitted for a complication of your diabetes diabetic 
ketoacidosis. This was in the setting of a viral stomach bug, 
but it also appears you may have had some damage to your heart. 
Imaging of your heart showed no major changes, however, but you 
were treated with medications and should see the cardiology 
doctors as ___ outpatient. You should also have your liver tests 
monitored by your PCP because your statin was restarted. 

Your blood sugars were gradually controlled with the help of our 
diabetes doctors. ___ continue taking your insulin as 
prescribed. You were also started on a new medication called 
erythromycin to help with your gastroparesis. Please continue 
taking this medication with meals and discuss the total duration 
with your primary care doctor. Because you are on this new 
medication, you should NOT continue to take reglan. 

Please continue to monitor your blood sugar and if you have 
significantly high levels ( > 300) or frequent lows (< 70) 
please notify Dr. ___ at ___ by calling ___.  

Lastly, you were found to have a urinary tract infection and 
will need to take a medication called Bactrim for seven days. 
Please take all medications as prescribed in your discharge 
paperwork and follow up with all scheduled appointments. If you 
develop any of the danger signs listed below, please call your 
doctor immediately or go to the emergency room. 

Wishing you well,
Your ___ Team
 
Followup Instructions:
___